US05093370
First, 2.78 g of 1,4-bis(2-ethoxycarbonylethyl)benzene was dissolved in 40 ml of absolute toluene, the solution was cooled to -65° C. with dry ice/acetone, and a solution of 1M diisobutylammonium hydride in 24 ml of toluene was added dropwise with stirring over 25 minutes, and the mixture was further stirred at -70° C. for 2 hours. Next, 2.5 ml of ethanol/2.5 ml of toluene, 3 ml of ethanol, and 2.75 ml of water/5.5 ml of ethanol were added dropwise in this order, and after removing cooling bath, the mixture was allowed to warm to a room temperature with stirring. After adding 10 ml of water, the mixture was adjusted to a pH value of not more than 3 with 6N hydrochloric acid. The organic layer was separated, washed with water and a saturated sodium chloride aqueous solution, dried over magnesium sulfate, and evaporated under a reduced pressure. The residue was applied to a silica gel column and eluted with hexane/ethyl acetate (6:1) to obtain 988 mg of 1,4-bis(2-formylethyl)benzene as a colorless crystal.

reactant | 1,4-bis(2-ethoxycarbonylethyl)benzene | 2.78 g | C(C)OC(=O)CCC1=CC=C(C=C1)CCC(=O)OCC | C16H22O4
reactant | dry ice acetone | C(=O)=O.CC(=O)C
reactant | diisobutylammonium hydride | 1M | [H-].C(C(C)C)[NH2+]CC(C)C
solvent | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 24 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | C(C)O | C2H6O
solvent | water | 2.75 ml | O | H2O
solvent | ethanol | 3 ml | C(C)O | C2H6O
solvent | ethanol | 2.5 ml | C(C)O | C2H6O
product | 1,4-bis(2-formylethyl)benzene | 988 mg | C(=O)CCC1=CC=C(C=C1)CCC=O | C12H14O2
